US08207172B2
Step 2. Preparation of N-{3-chloro-4-[(6-methylpyridin-2-yl)methoxy]phenyl}-5,8-dihydro-6H-spiro[1-benzothieno[2,3-d]pyrimidine-7,2′-[1,3]dioxolan]-4-amine
To isopropanol (80 mL) was sequentially added 4-chloro-5,8-dihydro-6H-spiro[1-benzothieno[2,3-d]pyrimidine-7,2′-[1,3]dioxolane] (5.5 g, 19.4 mmol), 3-chloro-4-[(6-methylpyridin-2-yl)methoxy]aniline (4.61 g, 18.5 mmol), and 4N HCl in dioxane (0.8 mL). The suspension was stirred with heating to 80° C., upon which time the contents turn brown and homogeneous. After 8 h, the heterogeneous mixture was removed from heating, and allowed to cool to rt. The resultant precipitate was collected by filtration as a light-brown solid (5.67 g, 81%), which was used without further purification. 1H-NMR (DMSO-d6) δ 8.35 (s, 1H), 8.16 (s, 1H), 7.78 (d, 1H), 7.73 (d, 1H), 7.51 (dd, 1H), 7.34 (d, 1H), 7.21 (m, 1H), 7.19 (d, 1H), 5.21 (s, 2H), 3.97 (s, 4H), 3.26 (t, 2H), 3.01 (s, 2H), 2.48 (s, 3H), 1.95 (t, 2H); LCMS RT=2.78 min; [M+H]+=495.2.

reactant | isopropanol | 80 mL | C(C)(C)O | C3H8O
reactant | 4-chloro-5,8-dihydro-6H-spiro[1-benzothieno[2,3-d]pyrimidine-7,2′-[1,3]dioxolane] | 19.4 mmol, 5.5 g | ClC=1C2=C(N=CN1)SC1=C2CCC2(OCCO2)C1 | C12H11ClN2O2S
reactant | 3-chloro-4-[(6-methylpyridin-2-yl)methoxy]aniline | 18.5 mmol, 4.61 g | ClC=1C=C(N)C=CC1OCC1=NC(=CC=C1)C | C13H13ClN2O
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 0.8 mL | O1CCOCC1 | C4H8O2
product | N-{3-chloro-4-[(6-methylpyridin-2-yl)methoxy]phenyl}-5,8-dihydro-6H-spiro[1-benzothieno[2,3-d]pyrimidine-7,2′-[1,3]dioxolan]-4-amine | ClC=1C=C(C=CC1OCC1=NC(=CC=C1)C)NC=1C2=C(N=CN1)SC1=C2CCC2(OCCO2)C1 | C25H23ClN4O3S
